US07402581B2
7-Bromoindane-5-carboxamide (1.94 g, 8.1 mmol) was suspended in CH2Cl2 (50 mL) whereupon POCl3 (1.5 g, 9.8 mmol) was added. Triethylamine (3.5 g, 34.6 mmol), dissolved in CH2Cl2 (10 mL) was added during one minute and an exotermic reaction was observed. The mixture was stirred at room temperature for 30 min and then poured over ice (50 g). The remaining material in the flask was washed out using CH2Cl2 (50 mL) and water (25 mL). The organic layer was washed twice with brine, dried over Na2SO4 and then the solvent was evaporated. The solid residue was treated with cold methanol and then filtrated off. The material was washed with cold methanol and then dried. There was obtained 1.2 g (66%) of 7-bromoindane-5-carbonitrile as a solid material. 1H NMR (300 MHz, CDCl3): 2.1-2.2 (q, 2H), 2.9-3.1 (m, 4H), 7.4 (s, 1H), 7.6 (s, 1H).

reactant | 7-Bromoindane-5-carboxamide | 8.1 mmol, 1.94 g | BrC=1C=C(C=C2CCCC12)C(=O)N | C10H10BrNO
reactant | POCl3 | 9.8 mmol, 1.5 g | O=P(Cl)(Cl)Cl | Cl3OP
reactant | Triethylamine | 34.6 mmol, 3.5 g | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 7-bromoindane-5-carbonitrile | 1.2 g, 66% | BrC=1C=C(C=C2CCCC12)C#N | C10H8BrN
